US04547501
A slurry of 2.0 g. (0.01 mole) of 4-chloro-[1,2,4]triazolo[4,3-a]quinoxaline (the product of Example 2) in N,N-dimethylformamide (30 ml.) was saturated with dimethylamine gas and stirred at room temperature overnight. The mixture was poured over ice and the precipitate was removed by filtration. Recrystallization from ethanol gave 640 mg. (44% yield) of 4-dimethylamino-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 184°-186° C. Mass spectrum: m/e, 213 (P).

reactant | 4-chloro-[1,2,4]triazolo[4,3-a]quinoxaline | 0.01 mole | ClC=1C=2N(C3=CC=CC=C3N1)C=NN2 | C9H5ClN4
reactant | dimethylamine | CNC | C2H7N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-dimethylamino-[1,2,4]triazolo[4,3-a]quinoxaline | 44% yield | CN(C=1C=2N(C3=CC=CC=C3N1)C=NN2)C | C11H11N5
